datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CC[O:72][C:11]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[O:12][C:11](=[CH2:10])/[CH:72]=[CH:73]/[O:74]C.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)/[CH:72]=[CH:73]/[O:74]C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:62]2=[C:63](C=C1)[CH2:64][CH:13]=[CH:12][CH:11]2[H:10].C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1>>C1=C[C:62]2=[C:63](C=C1)[CH2:64][CH+:13][CH:12]=[CH:11]2.C1CN2CC[C:33]3=[CH:32][C:31]([CH:20]([H:10])[C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1 10,11=10,20;12,13=11,12"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CO/[C:10](=[C:11](/[O-:12])[O:62]C)[C:71](=[O:72])[O:82]C>>CC[O:33][C:22](=[CH:21][CH2:20][C:10](OC)([C:11](=[O:12])[O:62]C)[C:71](=[O:72])[O:82]C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[N:72](CC)[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>CC[N:72](CC)[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:11](C)([H:10])[CH2:62][Si:63](C)(C)C.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si+:11](C)[CH2:62][Si:63](C)(C)C.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([NH2+:10][NH:61][C:62](C1=CC=CC=C1)=[O:63])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10=20;20,21=21"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O:10]=[C:11]1[CH:12]=[CH:13][N-:14][CH:63]=[CH:62]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([O:10][C:11]2=[CH:12][CH:13]=[N:14][CH:63]=[CH:62]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12,13=11,12;14=13,14"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si:62](C)([C:11](C1=CC=CC=C1)=[CH2:10])[Si:63](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11](C2=CC=CC=C2)[Si:62](C)(C)[Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].F[B-:63](F)(F)[CH2:62][CH:11]=[CH2:10]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][CH+:11][CH2:62][B-:63](F)(F)F)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])C1.CC(C)(C)C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C1C[C:20]([H:10])([O-:21])C1.CC(C)(C)C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([CH2:10][CH+:11][C:62]3=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[N:10]1=[C:11]([O-:12])[CH:64]=[CH:63][CH:62]=[CH:61]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:11](=[O:12])[CH:64]=[CH:63][CH:62]=[CH:61]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>C[C:10]([C:11]#[N:12])([O:20][C-:21]1CCCC1)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
